US09085583B2
Step 1: (S,E)-tert-butyl 4-(((tert-butylsulfinyl)imino)methyl)piperidine-1-carboxylate
To a round bottomed flask charged with a magnetic stir bar was added (S)-2-methylpropane-2-sulfinamide (20.46 g, 169 mmol), tert-butyl 4-formylpiperidine-1-carboxylate (30 g, 141 mmol), DCM (300 mL), and Ti(OEt)4 (59.0 ml, 281 mmol). The solution was stirred at room temperature for 3 h before it was quenched with brine (80 mL). The solution was stirred for 30 minutes before filtering. The filter cake was washed with DCM and the filtrate was placed in a separatory funnel and washed with water. The organics layer was dried over Na2SO4, filtered, and concentrated in vacuo. The crude residue solidified to the title compound (29 g, 92 mmol, 65.1% yield) m/z 217.

reactant | (S)-2-methylpropane-2-sulfinamide | 169 mmol, 20.46 g | CC(C)(C)[S@](=O)N | C4H11NOS
reactant | tert-butyl 4-formylpiperidine-1-carboxylate | 141 mmol, 30 g | C(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C11H19NO3
solvent | DCM | 300 mL | C(Cl)Cl | CH2Cl2
product | (S,E)-tert-butyl 4-(((tert-butylsulfinyl)imino)methyl)piperidine-1-carboxylate | 92 mmol, 29 g, 65.1% yield | C(C)(C)(C)[S@](=O)\N=C\C1CCN(CC1)C(=O)OC(C)(C)C | C15H28N2O3S
